US09358231B2
B. tert-butyl 4-(4-(5-vinylpyrazin-2-ylamino)phenylsulfonyl)piperazine-1-carboxylate
To a solution of 5-vinylpyrazin-2-amine (150 mg, 1.24 mmol) in 2-buOH (4 mL) were added K2CO3 (512 mg, 3.71 mmol), and tert-butyl 4-(4-aminophenylsulfonyl)piperazine-1-carboxylate (421 mg, 1.24 mmol). The reaction mixture was degassed for 10 minutes. To a mixture were added Pd2(dba)3 (76 mg, 0.07 mmol) and X-phos (53 mg, 0.11 mmol). The reaction mixture was heated to 100° C. for 6 hours after which, it was filtered with a pad of celite and partitioned between ethyl acetate and water. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, celite filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography using (20% to 30% Ethyl acetate/Hexane) as a solvent to afford title compound (360 mg, 65% yield). MS m/z: 446 [M+1].

reactant | 5-vinylpyrazin-2-amine | 1.24 mmol, 150 mg | C(=C)C=1N=CC(=NC1)N | C6H7N3
reactant | K2CO3 | 3.71 mmol, 512 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 4-(4-aminophenylsulfonyl)piperazine-1-carboxylate | 1.24 mmol, 421 mg | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O4S
reactant | X-phos | 0.11 mmol, 53 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
catalyst | Pd2(dba)3 | 0.07 mmol, 76 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(4-(5-vinylpyrazin-2-ylamino)phenylsulfonyl)piperazine-1-carboxylate | 360 mg, 65% yield | C(=C)C=1N=CC(=NC1)NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C21H27N5O4S
